US04521325
A suspension of 2.42 g n-butylhydrazine hydrochloride in 15 mL tetrahydrofuran was degassed and stirred under nitrogen with cooling (water bath) while 1.68 g of powdered potassium hydroxide was added. Stirring and cooling continued as 0.86 g (0.015 mole) methyl isocyanate in 15 mL tetrahydrofuran was added dropwise. The resulting mixture was allowed to stir at room temperature overnight. The solution was filtered and the filtrate evaporated to yield a colorless liquid. Vacuum distillation gave 82.7% N-methyl-1-butylhydrazine-carboxamide, b.p. 116°-118° C. at 0.06 torr. The compound crystallized upon standing m.p. 48°-50° C. Its structure was confirmed by NMR analysis.

reactant | n-butylhydrazine hydrochloride | 2.42 g | Cl.C(CCC)NN
reactant | methyl isocyanate | 0.015 mole, 0.86 g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-methyl-1-butylhydrazine-carboxamide | 82.7% | CNC(=O)N(N)CCCC | C6H15N3O
